US09302991B2
<Step-1>:methyl 5-fluoro-2-methoxy-6-(2,2,2-trifluoroethoxy)nicotinate
To a stirred solution of methyl 2-chloro-5-fluoro-6-(2,2,2-trifluoroethoxy)nicotinate (1.1 g, 3.9 mmol, Step-1 of Amine-42) in THF (35 mL) is added sodium methanolate (0.32 g, 5.8 mmol) at 0° C. The mixture is stirred at 60° C. for 2 hours and cooled to room temperature. The mixture is poured into water and extracted with dichloromethane (10 mL×3). The combined organic layer is washed with water, brine, and dried over sodium sulfate. The organic solvent is removed under reduced pressure. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (9:1) to give 310 mg (28% yield) of the title compound as a white solid.

reactant | methyl 2-chloro-5-fluoro-6-(2,2,2-trifluoroethoxy)nicotinate | 3.9 mmol, 1.1 g | ClC1=C(C(=O)OC)C=C(C(=N1)OCC(F)(F)F)F | C9H6ClF4NO3
reactant | sodium methanolate | 5.8 mmol, 0.32 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | methyl 5-fluoro-2-methoxy-6-(2,2,2-trifluoroethoxy)nicotinate | 310 mg, 28% yield | FC=1C(=NC(=C(C(=O)OC)C1)OC)OCC(F)(F)F | C10H9F4NO4
